US04558132
N-(4-Chlorophenyl)-N-methyl-3-nitro-2-pyridinamine
To 90 g (0.63 mole) of 4-chloro-N-methylaniline heated to 115°-120° C. under nitrogen atmosphere with stirring was added 66.3 g (0.42 mole) of 2-chloro-3-nitropyridine in four portions over a period of 80 minutes. After stirring the reaction mixture for an additional 20 minutes at 115°-120° C., the temperature was increased to 135°-140° C. for an additional 20 minute period. The hot melt was poured into 700 ml of 2N hydrochloric acid solution. Red precipitate weighing 96 g was collected and dissolved in hot acetic acid and converted to the hydrochloride salt by adding ethereal hydrogen chloride. The yield of the yellow solid was 90 g (72%). A portion of the salt was recrystallized from ethyl acetate-ethyl alcohol. On drying at 80° C. in vacuo, the hydrochloride salt dissociated to the free base, the title compound, m.p. 107°-110° C.

reactant | 4-chloro-N-methylaniline | 0.63 mole, 90 g | ClC1=CC=C(NC)C=C1 | C7H8ClN
reactant | 2-chloro-3-nitropyridine | 0.42 mole, 66.3 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
solvent | hydrochloric acid | 2N, 700 ml | Cl | ClH
product | N-(4-Chlorophenyl)-N-methyl-3-nitro-2-pyridinamine | ClC1=CC=C(C=C1)N(C1=NC=CC=C1[N+](=O)[O-])C | C12H10ClN3O2
